US05254725
The aldol reaction of L-kynurenine and benzaldehyde catalyzed by kynureninase was found to proceed to give predominantly (80%) the (αS, γR) diastereomer of α-amino-γ-hydroxybenzenebutanoic acid.

reactant | L-kynurenine | C=1C=CC(=C(C1)C(=O)C[C@@H](C(=O)O)N)N | C10H12N2O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | α-amino-γ-hydroxybenzenebutanoic acid | NC(C(=O)O)CC(C1=CC=CC=C1)O | C10H13NO3
